US08304419B2
Step B: 4-chloro-N-({3-[(3-chloro-5-cyanophenyl)oxy]-4-ethyl-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide
A solution of 5-chloro-N-({3-[(3-chloro-5-cyanophenyl)oxy]-4-ethyl-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-4-carboxamide (0.12 g, 0.213 mmol) and TFA (1.641 ml, 21.29 mmol) were stirred at RT under an atmosphere of nitrogen for 16 h then the solution was concentrated under vacuum. The material was purified by Reverse Phase HPLC (MeCN/water+0.1% TFA). The desired product was washed with saturated NaHCO3 solution and extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous NaHCO3 solution (50 mL), water (50 mL), dried over MgSO4, filtered and concentrated to give the title compound (0.059 g, 61%) as a white solid. 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.73 (s, 1H), 7.50 (s, 1H), 7.31 (t, 1H), 7.15-7.22 (m, 3H), 4.64 (s, 2H), 2.58 (q, 2H), 1.15 (t, 3H). LCMS m/z 434.1 (M+H).

reactant | 5-chloro-N-({3-[(3-chloro-5-cyanophenyl)oxy]-4-ethyl-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-4-carboxamide | 0.213 mmol, 0.12 g | ClC1=C(N=CN1COCC[Si](C)(C)C)C(=O)NCC1=C(C(=C(C=C1)CC)OC1=CC(=CC(=C1)C#N)Cl)F | C26H29Cl2FN4O3Si
reactant | TFA | 21.29 mmol, 1.641 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-chloro-N-({3-[(3-chloro-5-cyanophenyl)oxy]-4-ethyl-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide | 0.059 g, 61% | ClC=1N=CNC1C(=O)NCC1=C(C(=C(C=C1)CC)OC1=CC(=CC(=C1)C#N)Cl)F | C20H15Cl2FN4O2
